### PR TITLE
[Merged by Bors] - feat: exponentially tilted measures

### PR DESCRIPTION
**Pull request by RemyDegenne**
Define exponentially tilted measures. The exponential tilting of a measure `μ` on `α` by a function `f : α → ℝ` is the measure with density `x ↦ exp (f x) / ∫ y, exp (f y) ∂μ` with respect to `μ`. 

---

- [x] depends on: #7675
- [x] depends on: #8271

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/MeasureTheory/Measure/Tilted.lean [hunk 1]
```diff
@@ -0,0 +1,367 @@
...
+      div_nonneg (exp_pos _).le (integral_nonneg (fun _ ↦ (exp_pos _).le))⟩ : ℝ≥0)) := by
+  rw [Measure.tilted]
+  congr with x
+  rw [ENNReal.ofReal_eq_coe_nnreal]
+
+lemma tilted_apply (μ : Measure α) (f : α → ℝ) {s : Set α} (hs : MeasurableSet s) :
+    μ.tilted f s = ∫⁻ a in s, ENNReal.ofReal (exp (f a) / ∫ x, exp (f x) ∂μ) ∂μ := by
+  rw [Measure.tilted, withDensity_apply _ hs]
+
+lemma tilted_apply' (μ : Measure α) [SFinite μ] (f : α → ℝ) (s : Set α) :
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Measure/Tilted.lean:104]: don't you want to exchange the primed and non-primed version? I expect most of the time this will be used with probability measures. Same thing below.

File: Mathlib/MeasureTheory/Measure/Tilted.lean [hunk 2]
```diff
@@ -0,0 +1,367 @@
...
+      simp only [ne_eq, ENNReal.ofReal_eq_zero, not_le]
+      exact fun _ ↦ div_pos (exp_pos _) (integral_exp_pos hf)
+    · refine ae_of_all _ (by simp)
+    · refine ae_of_all _ (fun x ↦ ?_)
+      simp only
+      congr
+      rw [ENNReal.ofReal_inv_of_pos, inv_div', ← exp_neg, div_eq_mul_inv, inv_inv]
+      exact div_pos (exp_pos _) (integral_exp_pos hf)
+
+lemma ofReal_rnDeriv_tilted_right (μ ν : Measure α) [SigmaFinite μ] [SigmaFinite ν]
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Measure/Tilted.lean:319]:
```suggestion
lemma toReal_rnDeriv_tilted_right (μ ν : Measure α) [SigmaFinite μ] [SigmaFinite ν]
```

File: Mathlib/MeasureTheory/Measure/Tilted.lean [hunk 3]
```diff
@@ -0,0 +1,367 @@
...
+    (hfμ : AEMeasurable f μ) (hfν : AEMeasurable f ν) :
+    (μ.tilted f).rnDeriv ν
+      =ᵐ[ν] fun x ↦ ENNReal.ofReal (exp (f x) / (∫ x, exp (f x) ∂μ)) * μ.rnDeriv ν x := by
+  let g := fun x ↦ ENNReal.ofReal (exp (f x) / (∫ x, exp (f x) ∂μ))
+  refine Measure.rnDeriv_withDensity_left (μ := μ) (ν := ν) (f := g) ?_ ?_ ?_
+  · exact ((measurable_exp.comp_aemeasurable hfμ).div_const _).ennreal_ofReal
+  · exact ((measurable_exp.comp_aemeasurable hfν).div_const _).ennreal_ofReal
+  · exact ae_of_all _ (fun x ↦ by simp)
+
+lemma ofReal_rnDeriv_tilted_left {ν : Measure α} [SigmaFinite μ] [SigmaFinite ν]
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Measure/Tilted.lean:338]:
```suggestion
lemma toReal_rnDeriv_tilted_left {ν : Measure α} [SigmaFinite μ] [SigmaFinite ν]
```

**Review by sgouezel — COMMENTED** [review]
This looks great! I just have a few minor comments.

File: Mathlib/MeasureTheory/Measure/Tilted.lean [hunk 4]
```diff
@@ -0,0 +1,367 @@
...
+      = ∫⁻ x, ENNReal.ofReal (exp (f x) / ∫ x, exp (f x) ∂μ) * (g x) ∂μ := by
+  rw [← set_lintegral_univ, set_lintegral_tilted' f g MeasurableSet.univ, set_lintegral_univ]
+
+end lintegral
+
+section integral
+
+variable {E : Type*} [NormedAddCommGroup E] [NormedSpace ℝ E]
+
+lemma set_integral_tilted (f : α → ℝ) (g : α → E) {s : Set α} (hs : MeasurableSet s) :
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Measure/Tilted.lean:198]: You haven't swapped the prime on this one and the next one.

**Review by sgouezel — COMMENTED** [review]
bors d+
Thanks!
